US05618821
To a cooled (0° C.) solution of ethyl 3-(3quinolyl)propionate (1.01 g, 4.4 mmol) in 20 ml of ether was added 2.6 ml (2.6 mmol) of 1M LAH solution at 0° C. After stirring at 0° C. for 15 min, the mixture was allowed to warm and stirred at 20° C. for 3 h, and Rochelle salt (equiv) was added. The mixture was extracted with methylene chloride, and the organic layer was dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography on silica (10 cm column, ethyl acetete/hexane, 1/2-5/1; methylene chloride/acetone, 2/1-1/4) to afford 700 mg (85%) of 3-(3-hydroxypropyl)quinoline, as a thick oil. 3-[3-[4-(5-Trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-quinoline (I, Q=3-quinolyl Y=1,3-propylene, R1,R2 =3,5-dimethyl, R3 =5-trifluoromethyl-1,2,4-oxadiazol-3-yl)

reactant | ethyl 3-(3quinolyl)propionate | 4.4 mmol, 1.01 g | N1=CC(=CC2=CC=CC=C12)CCC(=O)OCC | C14H15NO2
reactant | LAH | 2.6 mmol, 1M, 2.6 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-(3-hydroxypropyl)quinoline | 700 mg, 85% | OCCCC=1C=NC2=CC=CC=C2C1 | C12H13NO
